US06448242B1
Bis(2-chloroethyl)amine hydrochloride (534 mg; 3.0 mmol) and sodium iodide (3.0 g; 20 mmol) were added to a solution in methanol (20 ml) of 4-(4-benzyl-1-piperazinyl)-aniline (1.1 g; 4.1 mmol) synthesized by the above process, and the mixture was stirred for 13 hours in a bath controlled at 70° C. The reaction mixture was concentrated under reduced pressure, and a 5% aqueous solution of sodium hydrogencarbonate was added to the resultant concentrated residue to conduct extraction with chloroform. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil was purified by column chromatography on silica gel, thereby obtaining 775 mg of impurity-containing 4-(4-benzyl-1-piperazinyl)-1-(1piperazinyl)benzene as an oil. Trimethylamine (0.3 ml; 2.2 mmol) and di-tert-butyl dicarbonate (450 mg; 2.1 mmol) were added to a solution of this oil (775 mg) in methylene chloride (5 ml) under ice cooling, and the mixture was stirred for 30 minutes. A saturated aqueous solution of sodium hydrogencarbonate was added to the reaction mixture to conduct extraction with chloroform. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil was purified by column chromatography on silica gel, thereby obtaining crude crystals (738 mg; yield: 42%) of 4-(4-benzyl-1-piperazinyl)-1-(4-tert-butoxycarbonyl-1-piperazinyl)-benzene. The crude crystals were recrystallized from chloroform-diethyl ether-n-hexane to obtain colorless flakes (melting point: 132-133° C.).

reactant | Bis(2-chloroethyl)amine hydrochloride | 3.0 mmol, 534 mg | Cl.ClCCNCCCl
reactant | sodium iodide | 20 mmol, 3.0 g | [I-].[Na+]
reactant | 4-(4-benzyl-1-piperazinyl)-aniline | 4.1 mmol, 1.1 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(N)C=C1 | C17H21N3
solvent | methanol | 20 ml | CO | CH4O
product | 4-(4-benzyl-1-piperazinyl)-1-(1piperazinyl)benzene | 775 mg | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)N1CCNCC1 | C21H28N4
